US07365085B2
b) {3-[4-(t-Butyldimethylsilylhydroxy)but-1-ynyl]phenyl}acetic acid methyl ester
A mixture of (3-iodo-phenyl)-acetic acid methyl ester (948 mg, 3.4 mmol), 1-(t-butyldimethylsilyloxy)but-3-yne (644 mg, 3.5 mmol), copper(1)iodide (50 mg), and bis(triphenylphosphine)-palladium(II)chloride (50 mg) in Et3N (5 ml) was refluxed, under argon for 2 hr. The reaction was cooled, and the liquid was decanted off, diluted with diethyl ether, and washed with 1N HCl. The organic layer was dried and the solvent was evaporated. The residue was chromatographed on silica gel (hexane/methylene chloride 60/40) to give the title compound as an oil (700 mg, 62%). MS (ESI) 333.0 (M+H)+.

reactant | (3-iodo-phenyl)-acetic acid methyl ester | 3.4 mmol, 948 mg | COC(CC1=CC(=CC=C1)I)=O | C9H9IO2
reactant | 1-(t-butyldimethylsilyloxy)but-3-yne | 3.5 mmol, 644 mg | [Si](C)(C)(C(C)(C)C)OCCC#C | C10H20OSi
solvent | Et3N | 5 ml | CCN(CC)CC | C6H15N
catalyst | copper(1)iodide | 50 mg | [Cu]I
catalyst | bis(triphenylphosphine)-palladium(II)chloride | 50 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | {3-[4-(t-Butyldimethylsilylhydroxy)but-1-ynyl]phenyl}acetic acid methyl ester | 700 mg, 62% | COC(CC1=CC(=CC=C1)C#CCCO[Si](C)(C)C(C)(C)C)=O | C19H28O3Si
